US08877970B2
4-(3,3-bis(pyridin-2-ylmethyl)thioureido)benzenesulfonamide (MIP-1138)
To a suspension of 4-isothiocyanatobenzenesulfonamide (401 mg, 1.87 mmol) in dry acetonitrile (10 mL) was added bis(pyridin-2-ylmethyl)amine (373 mg, 1.87 mmol). The reaction mixture went clear and a white precipitate formed. The solid was filtered, washed with acetonitrile and dried to afford MIP-1138 as a white sold (710 mg, 92%). 1H NMR (400 MHz, DMSO-d6) δ 11.18 (s, 1H), 8.61 (br, 2H), 7.79-7.64 (m, 6H), 7.34-7.25 (m, 6H), 5.14 (br, 4H); (M+H)+ (414).

reactant | 4-isothiocyanatobenzenesulfonamide | 1.87 mmol, 401 mg | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | bis(pyridin-2-ylmethyl)amine | 1.87 mmol, 373 mg | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3,3-bis(pyridin-2-ylmethyl)thioureido)benzenesulfonamide | N1=C(C=CC=C1)CN(C(NC1=CC=C(C=C1)S(=O)(=O)N)=S)CC1=NC=CC=C1 | C19H19N5O2S2
